US05019577
(b) Preparation of Diethyl N-(4-amino-3-methoxybenzoyl)-(L)-glutamate
A solution of diethyl N-(3-methoxy-4-nitrobenzoyl)-(L)-glutamate (11.0 g, 28.8 mmoles) in 95% ethanol (200 mL) was mixed with 10% palladium on carbon (0.8 g) and placed on a Parr apparatus. The mixture was shaken under hydrogen atmosphere for 1 hour. The reaction mixture was filtered, spin evaporated, and dried to give a clear viscous oil which on long-standing hardened to a white wax; yield, 9.95 g (99%); 1H-NMR (DMSO-d6) δ 1.15 and 1.17 (2t overlapped, 6H), 1.8-2.2 (m, 2H), 2.40 (t, 2H), 3.79 (s, 3H), 4.0-4.2 (2 q overlapped, 4H), 4.36 (m, 1H), 5.29 (br s, 2H), 6.60 (d, Jo =8 Hz, 1H), 7.3-7.4 (m, 2H), 8.25 (d, 1H); uv (MeOH) 301 nm max (17800), 280 sh (15700), 266 min (12600), 263 max (13200), 256 sh (12500), 245 min (8630), 204 max (40900); mass spec (CI) m/e 353 (56%), 150 (100).

reactant | diethyl N-(3-methoxy-4-nitrobenzoyl)-(L)-glutamate | 28.8 mmoles, 11.0 g | COC=1C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=CC1[N+](=O)[O-] | C17H22N2O8
reactant | MeOH | CO | CH4O
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
product | Diethyl N-(4-amino-3-methoxybenzoyl)-(L)-glutamate | NC1=C(C=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)OC | C17H24N2O6
